US07547691B2
[4-(6-Bromobenzo[b]thiophen-2-yl)-5-chloropyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride
Using the method of [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine, the title compound is synthesized from 4-(6-bromobenzo[b]thiophen-2-yl)-2,5-dichloropyrimidine and isolated as a light orange solid. ES+(m/z) 480 (35C1, 79Br), 482 ([37Cl, 79Br] and [35Cl, 81Br]) and 484 (37Cl, 81Br) [M(free base)+H].

reactant | [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine | S1C2=C(C=C1C1=NC(=NC=C1)NCCCN1CCN(CC1)C)C=CC=C2 | C20H25N5S
reactant | 4-(6-bromobenzo[b]thiophen-2-yl)-2,5-dichloropyrimidine | BrC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)Cl)C1 | C12H5BrCl2N2S
product | [4-(6-Bromobenzo[b]thiophen-2-yl)-5-chloropyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.BrC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C)C1 | InChI=1S/C20H23BrClN5S.3ClH/c1-26-7-9-27(10-8-26)6-2-5-23-20-24-13-16(22)19(25-20)18-11-14-3-4-15(21)12-17(14)28-18;;;/h3-4,11-13H,2,5-10H2,1H3,(H,23,24,25);3*1H
